US05387603
To a solution of 1-methoxy-2-(2,2,2-trifluoroethoxy)benzene (3.83 g) in dry methylene chloride (50 ml) was added boron tribromide (3.1 ml) with stirring under ice cooling, and the mixture was reacted for 30 minutes. The reaction mixture was poured into an aqueous sodium bicarbonate solution (500 ml), and the mixture was extracted with diethyl ether. The extract was washed with water, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of hexane and diethyl ether (20/1) as eluent to give 2.37 g of 2-(2,2,2-trifluoroethoxy)phenol melting at 49°-50° C.

reactant | 1-methoxy-2-(2,2,2-trifluoroethoxy)benzene | 3.83 g | COC1=C(C=CC=C1)OCC(F)(F)F | C9H9F3O2
reactant | boron tribromide | 3.1 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2,2-trifluoroethoxy)phenol | 2.37 g | FC(COC1=C(C=CC=C1)O)(F)F | C8H7F3O2
